US05281571
At 25° C., 13.16 g (0.04 mole) 4-chloro-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole, 6.1 g (0.044 mole) K2CO3, and 4.8 mL (0.044 mole) ethyl bromoacetate were slurried in 25 mL acetone. The reaction mixture was stirred at 25° C. for 16 hours. The reaction solution was poured into 150 mL ice water, filtered, washed with water and air dried. The residue was recrystallized from hexane to give 16.6 g (100%) of (2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)acetic acid, ethyl ester as a white solid, mp 130°-131° C.

reactant | 4-chloro-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.04 mole, 13.16 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)O)Cl)F | C11H6Cl2F4N2O
reactant | K2CO3 | 0.044 mole, 6.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 0.044 mole, 4.8 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | (2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenoxy)acetic acid, ethyl ester | 16.6 g, 100% | ClC1=C(OCC(=O)OCC)C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C | C15H12Cl2F4N2O3
